US08975282B2
Step 2) N-(4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (1.70 g, 7.35 mmol), HOAT (1.2 g, 8.82 mmol), and EDCI (1.68 g, 8.82 mmol) in DMF (40 mL) was added Et3N (2.6 mL, 18.38 mmol) drop wise. The solution was stirred at rt for 20 minutes, then a solution of 4-aminophenol (994 mg, 9.11 mmol) in DMF (6 mL) was added drop wise to the reaction system. The reaction was heated at 70° C. for 5 hours, then concentrated to 2 mL in vacuo, and diluted with water (50 mL). The precipitate was collected by filtration, washed with water (5 mL) and dried. The crude product was washed with DCM (20 mL) to give the title compound as a brown solid (2.02 g, 85%).

reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 7.35 mmol, 1.70 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | HOAT | 8.82 mmol, 1.2 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 8.82 mmol, 1.68 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Et3N | 18.38 mmol, 2.6 mL | CCN(CC)CC | C6H15N
reactant | 4-aminophenol | 9.11 mmol, 994 mg | NC1=CC=C(C=C1)O | C6H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 2.02 g, 85% | OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H17N3O3
